US04156732
3-(4-Chloro-3-sulfamoylbenzoyl)-1,2-dimethylindole
is obtained as described in Example 10 (a) from 10 g 4-chloro-3-sulfamoylbenzoyl chloride and 6.53 g 1,2-dimethylindole in dichloro-ethane in the presence of 12 g aluminum chloride. After treatment with isopropanol, crystals having a melting point of 247°-249° C. are obtained.

reactant | 4-chloro-3-sulfamoylbenzoyl chloride | 10 g | ClC1=C(C=C(C(=O)Cl)C=C1)S(N)(=O)=O | C7H5Cl2NO3S
reactant | 1,2-dimethylindole | 6.53 g | CN1C(=CC2=CC=CC=C12)C | C10H11N
reactant | aluminum chloride | 12 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | isopropanol | C(C)(C)O | C3H8O
solvent | dichloro-ethane | ClC(C)Cl | C2H4Cl2
product | 3-(4-Chloro-3-sulfamoylbenzoyl)-1,2-dimethylindole | ClC1=C(C=C(C(=O)C2=C(N(C3=CC=CC=C23)C)C)C=C1)S(N)(=O)=O | C17H15ClN2O3S
